US05302718
2-Hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]ethyl]benzoic acid
A solution of 2-hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]ethenyl]benzoic acid (3 g, 7.5 mmol) in tetrahydrofuran (100 ml) and acetic acid (100 ml) was hydrogenated over palladium on charcoal (10%, 0.3 g) and hydrogen at atmospheric pressure and room temperature for 27 h. The catalyst was filtered off and the solvent was evaporated. The residue was dissolved in a solution of sodium hydroxide (0.3 g) in acetone (30 ml) and water (30 ml). The solution was acidified with hydrochloric acid at ca 50° C. After cooling, the product crystallized yielding 1.6 g (52%).

reactant | 2-hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]ethenyl]benzoic acid | 7.5 mmol, 3 g | OC1=C(C(=O)O)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C20H16N2O5S
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | 2-Hydroxy-5-[2-[4-[(2-pyridinylamino)sulfonyl]phenyl]ethyl]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)CCC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C20H18N2O5S
